Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain, testicular swelling, weight loss
 
Major Surgical or Invasive Procedure:
___: Exploratory laparotomy, right colectomy, and internal 
drainage of sidewall abscess
 
History of Present Illness:
___ with no significant PMH presenting from PCP's office for 
fever, weight loss, abdominal rash and enlarged left testicle.

Dr. ___ having felt unwell for about the last year. 
His symptoms started with occassional bloating, then progressed 
to nausea and anorexia, specifically for oily and fried foods. 
Over the last year, he has lost approximately 80 lbs and started 
to get fevers for the last several weeks. In addition, he has 
noticed enlarging testicular swelling over the last ___ years, for 
which he has not sought medical evaluation.

He reported to his new PCP ___ (has not seen a physician for 
several years) and reported enlarging left testicle x multiple 
months with worsening over the past week. He noted increased 
worsening of appetite with more weight loss over the past week 
and intermittent fevers and chills. He reported moderate nausea 
without vomiting/diarrhea, no dysuria. He also noted red rash on 
right flank starting yesterday. He was sent by PCP for admission 
to medicine for further workup. He reported no chest pain, 
shortness of breath or abdominal pain.

In the ED, initial vitals were T 100.6 HR 51 BP 92/57 RR 18 SaO2 
96% on RA. Labs showed normal LFTs, CMP, lactate. CBC showed 
leukocytosis of 15.5 with 90% PMN, macrocytic anemia with Hct 
32.3, plts of 456, and a positive UA with small amounts of 
blood, WBC's, bacteria and protein. A CXR showed no acute 
cardiopulmonary abnormality. CT abdomen/pelvis was concerning 
for a cecal adenocarcinoma with associated sinus tract to the 
subcutaneous tissues with rim enhancing fluid collections 
tracking along the sinus tract and along the iliopsoas muscle 
consistent with abscesses from likely mass perforation. A 
testicular ultrasound was further pursued which showed large 
bilateral hydroceles without good visualization of the 
epididymis.
 
Past Medical History:
___ yo traumatic injury to right testicle requiring drainage
 
Social History:
___
Family History:
Father deceased colon cancer ___ yo. 2 siblings in good health.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
GENERAL: Cachectic chronically ill young Caucasian man appearing 
in NAD.
VITALS: T 99.4 (Tmax 101.8), BP 115/95, HR 106, RR 20, SaO2 95% 
on RA.
HEENT: PERRL, EOMI, oropharynx clear, MM dry, no cervical, 
submandibular, supraclavicular LAD
NECK: No carotid bruits, no JVD
LUNGS: Clear to auscultation bilaterally; no wheezes, rales, or 
rhonchi.
HEART: Tachycardic with very irregular rate, normal S1 & S2 and 
no murmurs, rubs, or gallops.
ABDOMEN: soft, nondistended, nontender to palpation throughout. 
10 cm indurated erythematous tense mass of right lower flank; 
tender to palpation but no open sinus tracts or weeping lesions; 
positive bowel sounds
EXTREMITIES: No clubbing, cyanosis or edema.
GU: Large tense nontender fluid collection in scrotum. Unable to 
palpate testicles or spermatic cord. 
NEUROLOGIC: A+OX3 MAE. No focal deficits.

DISCHARGE EXAM:
Gen: Pleasant, calm, comfortable, in NAD
VITAL SIGNS: T 97.2 BP 105/74 (98-105/65-74) HR 86 (67-90) RR 18 
SaO2 100% on RA
I/O: ___ yesterday; 100/600 on day of  discharge
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.
NECK: Supple, No LAD. JVP low. Normal carotid upstroke without 
bruits. No thyromegaly.
CV: PMI in ___ intercostal space, mid clavicular line. 
Irregularly irregular. Normal S1,S2. No murmurs, rubs, clicks, 
or ___
LUNGS: CTAB. No wheezes, rales, or rhonchi.
ABD: Midline abdominal surgical wound. Clean, no oozing. Soft,  
NT, ND. No HSM. Abdominal aorta was not enlarged by palpation. 
No abdominal bruits.
EXT: warm and well perfused. No clubbing, cyanosis or edema. 
Full distal pulses bilaterally. No femoral bruits.
SKIN: No rashes or lesions, ecchymoses.
NEURO: A&Ox3. CN ___ grossly intact. ___ strength throughout
 
Pertinent Results:
Labs on admission:
___ 04:15PM   WBC-15.5* RBC-4.60 HGB-9.9* HCT-32.3* MCV-70* 
MCH-21.6* MCHC-30.7* RDW-15.8*
___ 04:15PM   NEUTS-89.9* LYMPHS-5.8* MONOS-4.0 EOS-0.1 
BASOS-0.1
___ 04:15PM   PLT COUNT-456*
___ 04:15PM   GLUCOSE-108* UREA N-20 CREAT-0.9 SODIUM-133 
POTASSIUM-3.7 CHLORIDE-92* TOTAL CO2-30 ANION GAP-15
___ 04:15PM   ALBUMIN-3.4* CALCIUM-8.7 PHOSPHATE-3.4 
MAGNESIUM-1.9
___ 06:15PM   LACTATE-1.5
___ 04:15PM   ALT(SGPT)-33 AST(SGOT)-22 ALK PHOS-62 TOT 
BILI-0.5

___ 08:29PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 08:29PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-SM 
___ 08:29PM URINE  RBC-8* WBC-7* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 08:29PM URINE  HYALINE-3*

DISCHARGE LABS:
___ 07:50AM BLOOD WBC-7.4 RBC-5.07 Hgb-11.7* Hct-38.6* 
MCV-76* MCH-23.0* MCHC-30.2* RDW-21.6* Plt ___
___ 08:05AM BLOOD Neuts-87.9* Lymphs-7.0* Monos-4.8 Eos-0.2 
Baso-0.2
___ 07:50AM BLOOD Glucose-89 UreaN-14 Creat-0.9 Na-137 
K-4.7 Cl-99 HCO3-30 AnGap-13
___ 09:10AM BLOOD ALT-10 AST-17 LD(LDH)-172 AlkPhos-39* 
Amylase-24 TotBili-0.4
___ 07:50AM BLOOD Calcium-8.7 Phos-4.2 Mg-2.0
___ 05:25AM BLOOD calTIBC-147* Ferritn-66 TRF-113*
___ 09:05AM BLOOD %HbA1c-6.0* eAG-126*
___ 07:23AM BLOOD TSH-2.5
___ 07:23AM BLOOD Free T4-1.7

___ Scrotal Ultrasound
1. Bilateral massive mildly complex hydroceles. 
2. Normal testicles without focal testicular masses. 
3. Bilateral epididymi are not well visualized. 

___ CXR
Heart size is normal. The mediastinal and hilar contours are 
unremarkable. The lungs are clear. Pulmonary vascularity is 
normal. No pleural effusion or pneumothorax is present. No acute 
osseous abnormalities seen. 

___ CT ABDOMEN AND PELVIS W/CONTRAST
1. Circumfrential heterogeneous wall thickening around the cecum 
is most likely a malignancy of the cecum, likely adenocarcinoma. 
There is an associated sinus tract to the subcutaneous tissues 
with rim enhancing fluid collections tracking along the sinus 
tract and along the iliopsoas muscle. These are consistent with 
abscesses, likely due to perforation of the mass. There are 
prominent lymph nodes in the pelvis and retroperitoneum.
2. Trace bilateral pleural effusions.
3. Partially imaged hydroceles better evaluated on the scrotal 
ultrasound. 

___ ECG:
Atrial fibrillation with rapid ventricular response, Rate 141 

Pathology Report ___:
DIAGNOSIS:
1)  Right colon, ileo-colectomy (A-V, Z-AG): 
 a. Low grade colonic adenocarcinoma, see synoptic report. 
 b. Perforation of cecum with pericecal abscess formation and 
adhesions.
2)  Peritoneal studding, biopsy (W): Fibroadipose tissue with 
mesothelial inclusion cysts; no malignancy identified.
3)  Omentum, resection (X-Y): Unremarkable fibroadipose tissue; 
no malignancy identified.

___ CT ABD & PELVIS WITH CONTRAST:
1.  Contrast injected into the right abdominal wall drain fills 
a small 4cm subcutaneous pocket at the site of a prior abscess 
drainage. The fluid is contiguous with anasarca in the 
subcutaneous fat fascial plane. A small amount of contrast also 
extends intraperitoneally and layers in the pelvis.
2.  Small amount of free abdominal fluid, largest pocket layers 
in the pelvis.
3.  Small focus of postoperative pneumoperitoneum.
4.  Diffuse bowel dilation compatible with ileus.
5.  Small bibasilar pleural effusions and dependent atelectasis.

___ Peritoneal Fluid:
Atypical cells are present; favor reactive mesothelial cells. 

___ EKG:
Atrial fibrillation. Non-specific ST-T wave changes. Compared to 
the previous tracing of ___ the heart rate is better 
controlled.

___ ECHO:
The left atrium is mildly dilated. No left atrial mass/thrombus 
seen (best excluded by transesophageal echocardiography). The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >55%). The estimated cardiac index is 
normal (>=2.5L/min/m2). Right ventricular chamber size and free 
wall motion are normal. The aortic root is mildly dilated at the 
sinus level. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. There is no 
pericardial effusion.
 
Brief Hospital Course:
___ y/o M presented with fever, weight loss, and non-specific 
abdominal complaints who was subsequently found to have an 
intra-abdominal infection and mass now s/p R hemicolectomy and 
drain insertion ___, diagnosed with cecal adenocarcinomoa. On 
admission, he developed atrial fibrillation which had not been 
previously diagnosed and was difficult to control, necessitating 
transfer to the cardiology service until discharge, though he 
remained hemodynamically stable.

Hospital course by system:

# Cardiovascular: The patient was noted to be in atrial 
fibrillation with rapid ventricular response both preoperatively 
and postoperatively. He was also hypotensive initially 
postoperatively, requiring pressors for a very limited time in 
the PACU, which were quickly weaned. His hypotension was also 
responsive to fluid boluses and albumin. Rate control was 
attempted with intermittent IV metoprolol and diltiazem but was 
difficult to achieve. Cardiology was consulted for 
recommendations. Given that his rate was very difficult to 
control with intermittent boluses of these medications, he was 
transferred to the cardiac floor on ___ and started on a 
diltiazem drip for rate control. When bowel function returned, 
he was then transitioned off the drip to PO diltiazem. He 
continued to be tachycardic on PO diltiazem so PO metoprolol was 
added for increased rate control, which was effective. However, 
due to the development of 2 second pauses on telemetry during 
which he was asymptomatic, he was taken off diltiazem and 
incrementally increased on po metoprolol for rate control. 
Planning was in progress for TEE guided DCCV given his difficult 
rate control with frequent spikes to the 140s, however finally 
on 150 po metoprolol tartrate BID, adequate rate control (rest 
<110) was achieved. He remained asymptomatic throughout the 
episodes of tachycardia, without chest pain, shortness or breath 
or dizziness. Cardiac biomarkers were sent initially which were 
negative, and no ischemic changes were noted on ECG. TSH and TTE 
were unremarkable. He was also initially started on aspirin 325 
mg daily for anticoagulation per cardiology recommendations. 
When DCCV was contemplated, the Electrophysiology Service 
advised warfarin in the ___- and post-cardioversion period. The 
patient felt strongly about having his hydrocele repaired prior 
to several months of anticoagulation. Plan is thus to begin 
anticoagulation therapy after hydrocele repair in ___ weeks, 
course of anticoagulation for 3 weeks, then DCCV.

# GI: Postoperatively, he was kept on bowel rest and given IV 
fluids for hydration. He had an ileus postoperatively and had a 
repeat CT scan on ___ as there was concern for formation of an 
abscess at the site where the prior abscess was drained given 
his cardiac issues and increased WBC count. No rim-enhancing 
fluid collection was noted. He eventually had return of bowel 
function and was tolerating a regular diet by the time of 
discharge without further intervention. He will be followed by 
Heme-onc for further management of his new diagnosis of 
adenocarcinoma.

# ID: A drain was left in place intraoperatively where the 
abscess had been drained, and he was continued empirically on 
ciprofloxacin and Flagyl. Vancomycin was added on POD #5 when 
his WBC count increased. Antibiotics were continued for 9 days 
postoperatively; he remained afebrile with a decreasing WBC 
count and minimal flank erythema at the site of inital erythema. 
The drain continued to have large volume of serous output which 
was thought to be the patient mobilizing fluids as he was 
recovering postoperatively. The output eventually began to slow 
and the drain was removed on ___. His condition remained stable 
since that time, with no fevers, chills, drainage, or other 
evidence of infection.

# GU: A Foley catheter was placed on admission. I&O's were 
closely monitored. The patient was initially oliguric in the 
immediate postoperative phase and required IV resuscitation. 
After resuscitation, his urine output remained adequate, and his 
Foley was removed on POD #3, at which time he voided without 
difficulty. Scrotal ultrasound on admission revealed bilateral 
hydroceles without evidence of any masses. The patient requested 
to have the hydrocele drained, and urology was consulted and 
follow up was scheduled as an outpatient (with both general 
surgery and urology) prior to discharge.

# MSK: He was encouraged to mobilize out of bed in the initial 
postoperative phase and ambulate as tolerated. He was placed on 
SC heparin for DVT prophylaxis. He was ambulating indepedently 
by the time of discharge.

# Neuro: He remained alert and oriented throughout his 
postoperative course. He was initially started on a PCA for pain 
control which was discontinued when tolerating PO's. His pain 
was subsequently well controlled on PO regimen.

# Pulm: He remained without respiratory compromise with no 
active pulmonary issues.

CHRONIC ISSUES:
# Hydrocele - plan to have fixed surgically 2 weeks from 
discharge. No acute issues.

TRANSITIONAL ISSUES:
# Atrial fibrillation with RVR: Currently rate-controlled, plan 
to continue on metoprolol tartrate po 150 BID. Will be followed 
by PCP for management of anticoagulation after his hydrocele 
repair. Will also get EKG prior to ___ to confirm persistence 
of atrial firillation.

# Adenocarcinoma: Will follow-up as outpatient with Heme-onc for 
chemo/radiation planning.

# ID: Pt will contact PCP if any concerns of drainage, fevers, 
chills, or swelling/tenderness around surgical site and prior 
drain site. Further management per PCP.
 
Medications on Admission:
None
 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *Colace 100 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
3. Multivitamins 1 TAB PO DAILY 
4. Senna 1 TAB PO BID:PRN constipation 
RX *senna 8.6 mg 1 tablet by mouth twice a day Disp #*60 Tablet 
Refills:*0
5. Metoprolol Tartrate 150 mg PO BID; hold for SBP<95, HR<60 
RX *metoprolol tartrate 100 mg 1.5 tablet(s) by mouth twice a 
day Disp #*90 Tablet Refills:*0
6. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *Dilaudid 2 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Perforating cecal tumor with abscess eroding into right 
abdominal side wall.
2. T3N0Mx low grade adenocarcinoma of cecum 
3. Atrial fibrillation with rapid and initially difficult to 
control ventricular rate
4. Bilateral hydroceles
5. Oliguria without acute renal failure
6. Transient hypotension requiring pressors and intravenous 
fluids and colloid
7. Post-operative ileus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure to take care of you during your 
hospitalization. You came to the hospital with abdominal pain, 
weight loss and fever.  You had an abdominal CT scan which was 
concerning for cancer in your cecum (part of your bowel). You 
were taken to the operating room and had part of your colon 
removed and drainage of an abscess in your abdominal wall. The 
segment of colon that was removed was sent to pathology for 
testing and it was determined to be a low grade adenocarcinoma 
of the cecum. Please see below for scheduled follow up with 
oncology.

ATRIAL FIBRILLATION

You were also noted to be in an irregular heart rhythm while you 
were in the hospital called atrial fibrillation. You have been 
started on medications to control your heart rate. Please 
continue these medications at home as prescribed. It is also 
recommended that you take full dose aspirin (325 mg) daily.  
Please see below for cardiology follow up.

ACTIVITY:
 
Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
You may climb stairs. 
You may go outside, but avoid traveling long distances until you 
see your surgeon at your next visit.
Don't lift more than ___ lbs for ___ weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
You may start some light exercise when you feel comfortable.
You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
 
HOW YOU MAY FEEL: 
 
You may feel weak or "washed out" for 6 weeks. You might want to 
nap often. Simple tasks may exhaust you.
You may have a sore throat because of a tube that was in your 
throat during surgery.
You might have trouble concentrating or difficulty sleeping. You 
might feel somewhat depressed.
You could have a poor appetite for a while. Food may seem 
unappealing.
All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon.
 
YOUR INCISION:

You may gently wash away dried material around your incision.
It is normal to feel a firm ridge along the incision. This will 
go away.
Avoid direct sun exposure to the incision area.
Do not use any ointments on the incision unless you were told 
otherwise.
You may see a small amount of clear or light red fluid staining 
your dressing or clothes. If the staining is severe, please call 
your surgeon.
You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
Ove the next ___ months, your incision will fade and become 
less prominent.
 
YOUR BOWELS:

Constipation is a common side effect of narcotic pain medicine. 
If needed, you may take a stool softener (such as Colace, one 
capsule) or gentle laxative (such as milk of magnesia, 1 tbs) 
twice a day. You can get both of these medicines without a 
prescription.
If you go 48 hours without a bowel movement, or have pain moving 
the bowels, call your surgeon.
 
PAIN MANAGEMENT:

It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
Your pain should get better day by day. If you find the pain is 
getting worse instead of better, please contact your surgeon.
You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directied. Do not take it more frequently than prescribed. Do 
not take more medicine at one time than prescribed.
Your pain medicine will work better if you take it before your 
pain gets too severe.
Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
Remember to use your "cough pillow" for splinting when you cough 
or when you are doing your deep breathing exercises.
If you experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:

You have been started on new medications while you were in the 
hospital. If you have any questions about what medicine to take 
or not to take, please call your surgeon.
 
DANGER SIGNS:
Please call your surgeon if you develop:
- worsening abdominal pain
- sharp or severe pain that lasts several hours
- temperature of 101 degrees or higher
- severe diarrhea
- vomiting
- redness around the incision that is spreading
- increased swelling around the incision
- excessive bruising around the incision
- cloudy fluid coming from the wound
- bright red blood or foul smelling discharge coming from the 
wound
- an increase in drainage from the wound
 
Followup Instructions:
___